US05175157
3-[(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine×1/2H2O
Prepared from 3-[(N-(2-(6,7-dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3benzazepine by hydrogenation at 5 bar hydrogen pressure with 10% palladium/charcoal in ethanol at 70° C. analogously to Example 5.

reactant | 3-[(N-(2-(6,7-dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3benzazepine | COC=1C=C2C(=CN=CC2=CC1OC)CCN1CC(CCC1)CN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | C31H37N3O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 3-[(N-(2-(6,7-Dimethoxy-isoquinol-4-yl)-ethyl)-piperidin-3-yl)-methyl]-7,8-dimethoxy-2-oxo-1,3,4,5-tetrahydro-2H-3-benzazepine | COC=1C=C2C(=CN=CC2=CC1OC)CCN1CC(CCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C31H39N3O5
